US07632857B2
3′-Methanesulfonyl-biphenyl-4-carboxylic acid
Procedure HH: To a stirring solution of 3′-Methanesulfonyl-biphenyl-4-carboxylic acid methyl ester (1.0 mmol) in 1:1 methanol/tetrahydrofuran (0.15M), add 2N sodium hydroxide (3.0 mmol) and heat to reflux for 1 hour. After this time, remove the heat and concentrate in vacuo. Wash with 1N hydrochloric acid and water while extracting with 10% isopropanol/dichloromethane. Concentrate the organic layer in vacuo to yield the title compound. MS (m/e): 275.1 (M−1)

reactant | 3′-Methanesulfonyl-biphenyl-4-carboxylic acid methyl ester | 1.0 mmol | COC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C | C15H14O4S
reactant | sodium hydroxide | 3.0 mmol, 2N | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 0.15M | CO.O1CCCC1
product | 3′-Methanesulfonyl-biphenyl-4-carboxylic acid | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C14H12O4S
